Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / Aspirin / Sulfa (Sulfonamide Antibiotics) / 
gabapentin
 
Attending: ___.
 
Chief Complaint:
Transfer for cvEEG to r/u seizures
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: 
In brief, this is a ___ year female with a history of moderate
dementia and polyneuropathy (followed here by Dr. ___ who
presented to ___ on ___ with abdominal pain found to have
UTI. CTAP concerning for mild cystitis but UCx (contaminated) 
and
BCx have been negative. On ___ she had an episode of
unresponsiveness, staring into space (both eyes to the right),
non-verbal for a few minutes.  There was no jerking or 
myoclonus.
Then was deeply somnolent afterwards for about 24 hours.  She 
has
no recollection of the events.  Blood sugar is 141.  She had a 
CT
of the head, MRI of the brain and MRA of the brain as well as
carotid Doppler showed mild atrophy and atherosclerotic disease.
Neurology was consulted and were recommending to weaning
venlafaxine gradually to prevent withdrawal [doses 18.75 mg/day
at the time of transfer].  Home dose of Seroquel was also 
reduced
to 12.5 mg daily.

Due to suspicion for seizure-like activity, she was started on
Keppra 500 mg bid on ___. She was doing well and optimize until
she had another spell today which lasted about 15 minutes and
then went to sleep afterwards. HR 77, RR ___, BP 183/79, Sat
93% RA. Finally after 45 minutes she came around and was 
talking.
On neurology review she had findings c/w waxy flexibility c/f
catatonia or behavioral fluctuations in the setting of possible
DLB but felt ideally patient should be transferred to ___ for
EEG to r/o seizure. 

Of note she has had several admission for syncope or pre-syncope
in the past year. Usually these episodes have been while upright
and she was orthostatic at the time. In ___ she had another
admission with cardiac work-up TTE showed normal cardiac
function. V/Q study negative for PE. However, these recent
episodes are felt to be different that the episodes she has had
in the hospital. 

For her urinary tract infection she was treated with 3 days of 
IV
antibiotics and then switched to oral cefpodoxime on ___.
Antibiotics were discontinued ___.

ROS: Unable to complete with patient
 
Past Medical History:
dementia (?DLB)
polyneuropathy 
hypertension
IBS
COPD
     
 
Social History:
___
Family History:
Non-contributory.     
 
Physical Exam:
24 HR Data (last updated ___ @ 1241)
    Temp: 98.6 (Tm 98.6), BP: 177/100, HR: 86, RR: 20, O2 sat:
91%, O2 delivery: RA  

General: Awake, cooperative, NAD.
HEENT: MMM
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: Ecchymosis over right forearm. 
 
Neurologic:
-Mental Status: Awake, alert, oriented to name, ___, ___.  Able to name both low and ___
objects.  Speaks in one-word sentences.  Decreased spontaneous
verbal output.  Able to follow both midline and appendicular
commands. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: No pronator drift. No adventitious movements, such as
tremor or asterixis noted.

  [___]
L    5-   5-   5-   /    5-   5-  5-   5-   5-   5-    5    5
R    5-   5-   5-   /    5-   5-  5-   5-   5-   5-    5    5

-Sensory: Grossly intact light touch

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   1     /      1      1     1
R   1     /      1      1     1 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor
-Gait: Deferred.

DISCHARGE EXAM 
On examination she is not oriented.  She has difficulty naming 
low-frequency objects.  She has difficulty following two-step 
commands.  She follows one-step commands.  She moves all her 
extremities antigravity.  She speaks in short
sentences.  She did not have significant rigidity.  There is no 
tremor.  Upgaze was limited.
 
Pertinent Results:
ADMISSION 
___ 03:28PM BLOOD WBC-8.6 RBC-4.05 Hgb-12.6 Hct-40.7 
MCV-101* MCH-31.1 MCHC-31.0* RDW-13.5 RDWSD-49.8* Plt ___
___ 03:28PM BLOOD Glucose-103* UreaN-22* Creat-1.0 Na-142 
K-4.7 Cl-100 HCO3-29 AnGap-13
___ 03:28PM BLOOD Calcium-10.1 Phos-3.6 Mg-2.0
___ 03:28PM BLOOD TSH-2.8

DISCHARGE 
___ 06:10AM BLOOD WBC-8.7 RBC-3.82* Hgb-11.9 Hct-38.6 
MCV-101* MCH-31.2 MCHC-30.8* RDW-13.5 RDWSD-50.0* Plt ___
___ 06:00AM BLOOD Glucose-101* UreaN-25* Creat-1.1 Na-145 
K-4.8 Cl-102 HCO3-29 AnGap-14
___ 06:00AM BLOOD Calcium-9.7 Phos-4.4 Mg-2.1

REPORTS 
___ Imaging CHEST (PORTABLE AP) 
FINDINGS:  
  
Patient is rotated to the right.  Lung volumes are low on the 
current exam 
secondary bronchovascular crowding.  Accentuation of the 
cardiomediastinal 
silhouette is likely in part due to low lung volumes and patient 
rotation to 
the right with unfolding of the thoracic aorta.  Cardiac 
enlargement is 
similar compared to prior.  Chronic left lateral rib deformities 
are noted. 
  
IMPRESSION:  
  
No definite acute cardiopulmonary process. 

 
Brief Hospital Course:
Ms. ___ is ___ year old woman with a history of moderate 
dementia and polyneuropathy (followed by Dr. ___ who 
presented to ___ on ___ with abdominal pain found to have 
UTI now s/p treatment but w/ hospital course c/b with several 
episodes of behavioral arrest followed by period of somnolence 
concerning for seizures. 

Exam was grossly nonfocal with paratonia. Patient appears at 
functional baseline, confirmed by sons at bedside.

Laboratory tests were reassuring against infection or acute 
metabolic derangement. MR imaging of the brain obtained at the 
outside hospital did not show any focal lesion. Continuous EEG 
showed bitemporal slowing. We continued empiric treatment with 
Keppra for now. Patient with history of collapsing without loss 
of consciousness, which may be cataplexy. Patient has concern 
for ___ body disease with sleep behavior disorder. Had one 
non-responsive event that was captured on EEG that showed 
slowing with no epileptiform activity. 

#Encephalopathy
#Dementia - possibly ___ body dementia
- cvEEG showed bitemporal slowing
- orthostatic vital signs were negative but patient unable to 
stand
- ___ eval recommended rehab
- continued levetiracetam 500mg BID
- continued venlafaxine 18.75mg QAM
- discontinued Seroquel 12.5mg at night and replaced with 
Trazadone 
- continued memantine 20 mg every morning, 10 mg every afternoon
- started aricept 5 mg qAM; will trial for 1 month before 
titrating

Transitional Issues: 
[] titrate aricept as appropriate
[] f/u with neurology
[] Stopped nighttime quetiapine given concern for DLB and 
replaced with trazadone. Please monitor for 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO TID 
2. QUEtiapine Fumarate 12.5 mg PO QHS 
3. Venlafaxine XR 18.75 mg PO DAILY 
4. Albuterol Inhaler 1 PUFF IH Q4H:PRN wheezing 
5. Memantine 20 mg PO QAM 
6. Memantine 10 mg PO QPM 
7. Labetalol 300 mg PO BID 

 
Discharge Medications:
1.  Donepezil 5 mg PO DAILY  
2.  LevETIRAcetam 500 mg PO BID  
3.  TraZODone 25 mg PO QHS:PRN Insomnia  
4.  Acetaminophen 1000 mg PO TID  
5.  Albuterol Inhaler 1 PUFF IH Q4H:PRN wheezing  
6.  Labetalol 300 mg PO BID  
7.  Memantine 20 mg PO QAM  
8.  Memantine 10 mg PO QPM  
9.  Venlafaxine XR 18.75 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Encephalopathy

Dementia

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital from another hospital because 
of multiple episodes of confusion and somnolence.

You were monitored on EEG to see if you were having seizures. 
EEG showed only slowing, but no seizures were captured. 

Take your medications as prescribed. 

Please follow up with your PCP ___ ___ weeks of discharge. 

Follow up with neurology on ___ with Dr. ___. 

Thank you for the opportunity to care for you. 

Sincerely, 

Your ___ Neurology Team
 
Followup Instructions:
___